US09328096B2
Methyl 2-chloro-5-iodo-4-methylbenzoate
To a solution of 2-chloro-5-iodo-4-methylbenzoic acid (Preparation 49, 2.50 g, 8.43 mmol) in methanol (50 mL) was added concentrated sulfuric acid (1.2 mL) and the reaction was heated at 60° C. for 18 hours. The reaction was cooled, concentrated in vacuo, diluted with water and basified with potassium carbonate until pH=9. The aqueous solution was extracted with EtOAc (3×100 mL), the organic layers combined, washed with water (100 mL), brine (100 mL), dried over magnesium sulphate and concentrated in vacuo to afford the title compound (2.3 g, 88%).

reactant | 2-chloro-5-iodo-4-methylbenzoic acid | 8.43 mmol, 2.50 g | ClC1=C(C(=O)O)C=C(C(=C1)C)I | C8H6ClIO2
reactant | sulfuric acid | 1.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 mL | CO | CH4O
product | Methyl 2-chloro-5-iodo-4-methylbenzoate | 2.3 g, 88% | ClC1=C(C(=O)OC)C=C(C(=C1)C)I | C9H8ClIO2
